US07842713B2
Preparation of Intermediate 371d: Methyl 4-methoxy-1,3-benzothiazole-6-carboxylate
To a stirred solution of methyl 2-amino-4-methoxy-1,3-benzothiazole-6-carboxylate (100 g, 0.42 mol) in DMF (1 L) was added drop wise isoamyl nitrite (108 g, 0.92 mol) at 65° C. Then the resulting mixture was stirred at 65° C. for 20 min. TLC (EtOAc/Petroleum ether 1:4) showed the reaction was complete. After cooling to ambient temperature, the mixture was poured into ice water (1 L). The resulting mixture was extracted with EtOAc (1 L×3). The combined organic layers were washed with water (1 L×2), dried over Na2SO4 and concentrated in vacuum. The residue was purified by chromatography (silica gel, EtOAc/Petroleum ether 1:50 to 1:10) to afford the product (22 g, 23%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 9.050 (s, 1H), 8.285-8.281 (d, 1H), 7.592-7.587 (d, 1H), 4.110 (s, 3H), 3.965 (s, 3H).

reactant | methyl 2-amino-4-methoxy-1,3-benzothiazole-6-carboxylate | 0.42 mol, 100 g | NC=1SC2=C(N1)C(=CC(=C2)C(=O)OC)OC | C10H10N2O3S
reactant | isoamyl nitrite | 0.92 mol, 108 g | N(=O)OCCC(C)C | C5H11NO2
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
product | Methyl 4-methoxy-1,3-benzothiazole-6-carboxylate | 22 g, 23% | COC1=CC(=CC2=C1N=CS2)C(=O)OC | C10H9NO3S
